US06320050B1
A solution of 3-cyclopentyl-2-(3-methoxy-phenyl)-propionic acid methyl ester (1.39 g, 5.29 mmol) in tetrahydrofuran/water/methanol (13.2 mL, 3:1:1) at 25° C. was treated with a 2N aqueous sodium hydroxide solution (3.97 mL, 7.94 mmol). The reaction was stirred at 25° C. for 48 h. At this time, the reaction mixture was poured into water (50 mL) and extracted with chloroform (3×25 mL). The aqueous layer was acidified to pH=1 with a 1N aqueous hydrochloric acid solution. The aqueous layer was extracted with a solution of chloroform/methanol (9:1). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 70/30 hexanes/ethyl acetate with glacial acetic acid) afforded 3-cyclopentyl-2-(3-methoxy-phenyl)-propionic acid (1.05 g, 79.8%) as a clear wax: EI-HRMS m/e calcd for C15H20O3 (M+) 248.1412, found 248.1409.

reactant | 3-cyclopentyl-2-(3-methoxy-phenyl)-propionic acid methyl ester | 5.29 mmol, 1.39 g | COC(C(CC1CCCC1)C1=CC(=CC=C1)OC)=O | C16H22O3
reactant | sodium hydroxide | 7.94 mmol, 2N, 3.97 mL | [OH-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran water methanol | 13.2 mL | O1CCCC1.O.CO
product | 3-cyclopentyl-2-(3-methoxy-phenyl)-propionic acid | 1.05 g, 79.8% | C1(CCCC1)CC(C(=O)O)C1=CC(=CC=C1)OC | C15H20O3
